US08809525B2
6-Bromo-5-phenyl-1,2,4-triazin-3-amine (1.40 g, 64%) was prepared from 5-phenyl-1,2,4-triazin-3-amine (1.50 g, 8.70 mmol) and N-bromosuccinimide (4.50 g, 26.6 mmol) according to the general procedure of Preparation 3.

reactant | 5-phenyl-1,2,4-triazin-3-amine | 8.70 mmol, 1.50 g | C1(=CC=CC=C1)C=1N=C(N=NC1)N | C9H8N4
reactant | N-bromosuccinimide | 26.6 mmol, 4.50 g | BrN1C(CCC1=O)=O | C4H4BrNO2
product | 6-Bromo-5-phenyl-1,2,4-triazin-3-amine | 1.40 g, 64% | BrC1=C(N=C(N=N1)N)C1=CC=CC=C1 | C9H7BrN4
